*          PSPICE netlist created with
* EAGLE Version 5.2.0 Copyright (c) 1988-2008 CadSoft
* 09.09.2008 22:19:41
*
*
*  Node    Net
*
*    0     GND
*    1     EIB+
*    2     EIB_IN
*    3     EIB_OUT
*    4     N$1
*    5     N$2
*    6     N$3
*    7     N$4
*    8     N$5
*    9     N$6
*   10     N$7
*   11     N$8
*   12     N$9
*   13     N$12
*   14     N$19
*   15     N$20
*   16     N$21
*   17     N$22
*   18     N$24
*   19     PB0
*   20     PB1/OC1A/PWM1
*   21     PB2/OC1B/PWM2
*   22     PB3/MOSI
*   23     PB4/MISO
*   24     PB5/SCK
*   25     PC0/ADC0
*   26     PC1/ADC1
*   27     PC2/ADC2
*   28     PC3/ADC3
*   29     PC4/ADC4/SDA
*   30     PC5/ADC5/SCL
*   31     PD0/RXD
*   32     PD1/TXD
*   33     PD3/INT1
*   34     PD5/T1
*   35     PD6/AIN0
*   36     PD7/AIN1
*   37     RESET
*   38     V+
*   39     VCC
*   40     VEXT
*

* C1
C1  9 0 100u

* C2
C2  38 10 100n

* C3
C3  16 0 470p

* C4
C4  0 37 47n

* C5
C5  18 0 100n

* C6
C6  39 0 100u

* C7
C7  0 39 100n

* C8
C8  0 11 33p

* C9
C9  0 12 33p

* D1
D1  1 38 1N4148

* D2
D2  0 1 P6KEXXA

* D3
D3  5 9 1N4148

* D4
D4  0 15 BAT46

* D5
D5  8 4 18V

* GND1
* dropped (assumed supply symbol)!!!

* GND2
* dropped (assumed supply symbol)!!!

* GND3
* dropped (assumed supply symbol)!!!

* GND5
* dropped (assumed supply symbol)!!!

* GND6
* dropped (assumed supply symbol)!!!

* GND7
* dropped (assumed supply symbol)!!!

* GND8
* dropped (assumed supply symbol)!!!

* GND9
* dropped (assumed supply symbol)!!!

* GND10
* dropped (assumed supply symbol)!!!

* GND11
* dropped (assumed supply symbol)!!!

* GND12
* dropped (assumed supply symbol)!!!

* GND13
* dropped (assumed supply symbol)!!!

* GND14
* dropped (assumed supply symbol)!!!

* GND15
* dropped (assumed supply symbol)!!!

* GND16
* dropped (assumed supply symbol)!!!

* GND17
* dropped (assumed supply symbol)!!!

* GND18
* dropped (assumed supply symbol)!!!

* GND19
* dropped (assumed supply symbol)!!!

* GND20
* dropped (assumed supply symbol)!!!

* GND21
* dropped (assumed supply symbol)!!!

* GND22
* dropped (assumed supply symbol)!!!

* IC2
IC2  0 18 39 0 19 20 21 22 23 24 11 12 25 26 27 28 29 30 37 31 32 2 33 3 34 35 36 39 MEGA8-P

* IC3
IC3  13 17 0 13 13 15 16 9 MC34063AP

* JP1
JP1  38 5 40 

* JP3
JP3  23 39 24 22 37 0 

* L1
L1  15 39 220u

* LED9
LED9  14 19 

* P+1
* dropped (assumed supply symbol)!!!

* P+2
* dropped (assumed supply symbol)!!!

* P+3
* dropped (assumed supply symbol)!!!

* P+5
* dropped (assumed supply symbol)!!!

* P+6
* dropped (assumed supply symbol)!!!

* P+7
* dropped (assumed supply symbol)!!!

* P+8
* dropped (assumed supply symbol)!!!

* Q1
Q1  10 0 2 BC557

* Q2
Q2  4 7 38 BC557

* Q3
Q3  12 11 8,000

* Q4
Q4  7 6 8 BC547

* Q5
Q5  8 3 0 BS170

* R1
R1  9 13 3R

* R2
R2  17 0 2k2

* R3
R3  38 0 100k

* R4
R4  38 4 68R

* R5
R5  14 39 1k

* R6
R6  38 6 68R/0.25W

* R7
R7  39 10 82k

* R8
R8  0 10 47k

* R9
R9  39 37 4k7

* R10
R10  17 39 3k2

* R11
R11  7 8 220R

* R12
R12  3 0 4k75

* S1
S1  19 19 0 0 

* SL1
SL1  0 20 21 25 24 26 33 27 28 

* SUPPLY1
* dropped (assumed supply symbol)!!!

* SUPPLY2
* dropped (assumed supply symbol)!!!

* SUPPLY3
* dropped (assumed supply symbol)!!!

* SUPPLY4
* dropped (assumed supply symbol)!!!

* X1
X1  22 1 0 20 21 24 25 26 33 27 28 19 -1 -2 31 32 -3 -4 39 40 FB_KOMPAKT-APP
.END
